simulator lang=spectre
global 0

ahdl_include "dut.va"

Vvdd (vdd 0) vsource dc=0.9
Vvss (vss 0) vsource dc=0
Vweight0 (weight0 0) vsource type=pulse val0=0 val1=0.9 delay=1n rise=50p fall=50p width=1n period=2n
Vweight1 (weight1 0) vsource type=pulse val0=0 val1=0.9 delay=1n rise=50p fall=50p width=2n period=4n
Vweight2 (weight2 0) vsource type=pulse val0=0 val1=0.9 delay=1n rise=50p fall=50p width=4n period=8n
Vweight3 (weight3 0) vsource type=pulse val0=0 val1=0.9 delay=1n rise=50p fall=50p width=8n period=16n
Vweight4 (weight4 0) vsource type=pulse val0=0 val1=0.9 delay=1n rise=50p fall=50p width=16n period=32n
Vweight5 (weight5 0) vsource type=pulse val0=0 val1=0.9 delay=1n rise=50p fall=50p width=32n period=64n

XDUT (weight0 weight1 weight2 weight3 weight4 weight5 vdd vss analog_sum) v2_binary_dac_reordered_meaning_6b

tran tran stop=120n maxstep=500p
save weight0 weight1 weight2 weight3 weight4 weight5 analog_sum
